US06017923
Scheme E, step e: 5-Hydroxy-3-benzoyloxymethylpent-1,2-diene
Combine 5-(p-methoxybenzyloxy)-3-benzoyloxymethylpent-1,2-diene (12.0 mmol), methylene chloride (25 mL) and water (1.25 mL). Add 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (12.5 mmol) with rapid stirring. After 1.5 hours filter the reaction mixture and extract the filtrate three times with water, dry over MgSO4 and concentrate in vacuo. Chromatograph on silica gel to give the title compound.

reactant | 5-(p-methoxybenzyloxy)-3-benzoyloxymethylpent-1,2-diene | 12.0 mmol | COC1=CC=C(COCCC(=C=C)COC(C2=CC=CC=C2)=O)C=C1 | C21H22O4
reactant | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 12.5 mmol | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | water | 1.25 mL | O | H2O
product | 5-Hydroxy-3-benzoyloxymethylpent-1,2-diene | OCCC(=C=C)COC(C1=CC=CC=C1)=O | C13H14O3
